US08383858B2
3-Propyloxirane-2-carboxylic acid
A flask equipped with an overhead stirrer, thermometer and addition funnel was placed under a nitrogen atmosphere then charged with trans-2-hexenoic acid (69.8 g, 611 mmol), water (420 mL) and acetone (420 mL). Sodium bicarbonate (NaHCO3, 224 g, 2.66 mol) was then added portion-wise keeping the reaction temperature at 25±5° C. Once all of the sodium bicarbonate had been added, a solution of OXONE® (454 g, 738 mmol) in 4×10−4 M ethylenediaminetetraacetic acid disodium salt dehydrate (Na2EDTA; 1.32 L) was charged to the addition funnel and added over 90 minutes keeping the reaction temperature at 25±5° C. and the pH between 9.5 and 7.5. The reaction mixture was then allowed to stir for 16 h, after which time no (E)-hex-2-enoic acid was observed by HPLC analysis. The mixture was cooled to 0±5° C., acidified to pH 2 with 6 N HCl (515 mL, 2.8 mol) and extracted with ethyl acetate (EtOAc; 3×250 mL). The combined organic phases were dried over sodium sulfate (Na2SO4), filtered then concentrated under reduced pressure to provide the title compound (60.4 g, 76%) as a yellow oil.

reactant | trans-2-hexenoic acid | 611 mmol, 69.8 g | C(\C=C\CCC)(=O)O | C6H10O2
reactant | Sodium bicarbonate | 2.66 mol, 224 g | C([O-])(O)=O.[Na+]
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | HCl | 2.8 mol, 6 N, 515 mL | Cl | ClH
solvent | ethylenediaminetetraacetic acid disodium salt | 4×10−4 M, 1.32 L | [Na+].[Na+].C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)O)CC(=O)O
solvent | acetone | 420 mL | CC(=O)C | C3H6O
solvent | water | 420 mL | O | H2O
product | 3-Propyloxirane-2-carboxylic acid | 60.4 g, 76% | C(CC)C1C(O1)C(=O)O | C6H10O3
